US07538132B2
4-(5-Methyl-3-phenyl-isoxazole-4-carbonyl)-1H-pyrrole-2-carboxylic acid methyl ester
A mixture of 406 mg (2 mmol) 5-methyl-3-phenyl-isoxazole-4-carboxylic acid (commercially available) and 4 mL SOCl2 was heated to reflux for 3 h. After evaporation of all volatiles the residue was added to a mixture of 206 mg (2 mmol) 1H-pyrrole-2-carboxylic acid methyl ester (commercially available) and 440 mg (3 mmol) AMCl3 in 25 mL dichloroethane and heated to reflux for 3 h. After cooling to room temperature the precipitate was collected and washed with dichloromethane. The residue was purified on silica eluting with a gradient of ethyl acetate and heptane affording 210 mg (37%) of the title compound as white foam. (m/e): 311.0 (MH+; 100%).

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid | 2 mmol, 406 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C11H9NO3
reactant | SOCl2 | 4 mL | O=S(Cl)Cl | Cl2OS
reactant | 1H-pyrrole-2-carboxylic acid methyl ester | 2 mmol, 206 mg | COC(=O)C=1NC=CC1 | C6H7NO2
solvent | dichloroethane | 25 mL | ClC(C)Cl | C2H4Cl2
product | 4-(5-Methyl-3-phenyl-isoxazole-4-carbonyl)-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1NC=C(C1)C(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C17H14N2O4
